US07459472B2
3-Biphenyl-4-yl-(2S)-[(3′-chloro-4′-fluoro-4-hydroxy- biphenyl-3-carbonyl)-amino]-propionic acid methyl ester
The resin-bound 3-(biphenyl-4-yl)-(2S)-(5-bromo-4-hydroxy-benzoylamino)-propionic acid methyl ester (50 mg, 0.3 mmol) was reacted with 3-chloro-4-fluorophenylboronic acid (240 mg, 1.5 mmol) following general procedure D, cleaved with TMSBr/TFA/DCM (1:1:5) at rt for 4 h. The residue obtained after removing the solvent was purified by chromatography to give 35 mg of title compound.

reactant | 3-(biphenyl-4-yl)-(2S)-(5-bromo-4-hydroxy-benzoylamino)-propionic acid methyl ester | 0.3 mmol, 50 mg | COC([C@H](CC1=CC=C(C=C1)C1=CC=CC=C1)NC(C1=CC=C(C(=C1)Br)O)=O)=O | C23H20BrNO4
reactant | 3-chloro-4-fluorophenylboronic acid | 1.5 mmol, 240 mg | ClC=1C=C(C=CC1F)B(O)O | C6H5BClFO2
reactant | TMSBr TFA DCM | C[Si](C)(C)Br.C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 3-Biphenyl-4-yl-(2S)-[(3′-chloro-4′-fluoro-4-hydroxy- biphenyl-3-carbonyl)-amino]-propionic acid methyl ester | 35 mg | COC([C@H](CC1=CC=C(C=C1)C1=CC=CC=C1)NC(=O)C=1C=C(C=CC1O)C1=CC(=C(C=C1)F)Cl)=O | C29H23ClFNO4
